US09388161B2
A mixture of (S)-methyl 6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.534 g, 1.51 mmol), bis(pinacolato)diboron (0.421 g, 1.66 mmol), potassium acetate (0.370 g, 3.77 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.123 g, 0.151 mmol) in 1,4-dioxane (5.0 mL) was heated at 80° C. overnight. The reaction mixture was cooled to room temperature, filtered through a pad of Celite, and concentrated. The residue was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 5-10% ethyl acetate-hexane) to afford (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.217 g, 36%) as a colorless oil. MS (ESI, pos. ion) m/z 402 [M+H]+.

reactant | (S)-methyl 6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 1.51 mmol, 0.534 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C16H20BrNO3
reactant | bis(pinacolato)diboron | 1.66 mmol, 0.421 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.77 mmol, 0.370 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.151 mmol, 0.123 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-methyl 5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 0.217 g, 36% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC)C | C22H32BNO5
